US07713993B2
IPEA (2.5 mL) was added to a suspension of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid hydrazide (500 mg) in methylene chloride (12 mL) at room temperature, and the reaction solution was stirred at room temperature for 10 minutes. 4-benzoylbutyric acid (334 mg) and BOPCl (442 mg) were added to the reaction solution at room temperature, and the reaction solution was stirred at room temperature for four hours. A saturated sodium bicarbonate solution was added to the reaction solution, followed by extraction with chloroform. The resulting extract was dried over magnesium sulfate and then concentrated under reduced pressure to obtain 5-oxo-5-phenylpentanoic acid N′-{(E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazide (692 mg). Imidazole (494 mg), carbon tetrabromide (2.36 g) and triphenylphosphine (559 mg) were added to a suspension of 5-oxo-5-phenylpentanoic acid N′-{(E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazide (634 mg) in methylene chloride (15 mL) at room temperature, and the reaction solution was stirred at room temperature for 12 hours. The reaction solution was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system, then ethyl acetate-methanol system) to obtain 515 mg of the title compound. The property value of the compound is as follows.

reactant | IPEA | 2.5 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acrylic acid hydrazide | 500 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)NN | C14H16N4O2
reactant | 4-benzoylbutyric acid | 334 mg | C(C1=CC=CC=C1)(=O)CCCC(=O)O | C11H12O3
reactant | BOPCl | 442 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 12 mL | C(Cl)Cl | CH2Cl2
product | 5-oxo-5-phenylpentanoic acid N′-{(E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]acryloyl}hydrazide | 692 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)NNC(CCCC(C1=CC=CC=C1)=O)=O | C25H26N4O4
